US08633189B2
6-(Trifluoromethoxy)-3,4-dihydro-2H-1,4-benzoxazine-2-carboxylic acid (600 mg, 2.28 mmol) and 2-bromo-4-methyl-aniline (424 mg, 286 μL, 2.28 mmol) were dissolved in 2-methyltetrahydrofuran (7 mL) and pyridine (461 μL, 5.70 mmol). T3P (2902 mg, 2.7 mL of 50% w/w solution, 4.56 mmol) was added and the reaction was stirred for 30 min at room temperature. Purification by silica gel chromatography (10-100% ethyl acetate/hexanes) provided N-(2-bromo-4-methylphenyl)-6-(trifluoromethoxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxamide (743 mg, 76% yield). LC/MS m/z 432.4 [M+H]+.

reactant | 6-(Trifluoromethoxy)-3,4-dihydro-2H-1,4-benzoxazine-2-carboxylic acid | 2.28 mmol, 600 mg | FC(OC=1C=CC2=C(NCC(O2)C(=O)O)C1)(F)F | C10H8F3NO4
reactant | 2-bromo-4-methyl-aniline | 2.28 mmol, 286 μL, 424 mg | BrC1=C(N)C=CC(=C1)C | C7H8BrN
reactant | pyridine | 5.70 mmol, 461 μL | N1=CC=CC=C1 | C5H5N
reactant | T3P | 4.56 mmol, 2.7 mL, 2902 mg | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | 2-methyltetrahydrofuran | 7 mL | CC1OCCC1 | C5H10O
product | N-(2-bromo-4-methylphenyl)-6-(trifluoromethoxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxamide | 743 mg, 76% yield | BrC1=C(C=CC(=C1)C)NC(=O)C1CNC2=C(O1)C=CC(=C2)OC(F)(F)F | C17H14BrF3N2O3
